US05968942
A 50 mL round bottom flask equipped with magnetic stir bar and condenser was charged with 6.0 g of 2-trimethylsilyloxy-1,3-cyclohexadiene, 3.5 g methyl tetrolate in 3 mL dry toluene. The reaction was heated to 150° C. for 50 hours at which point 1H-NMR indicated no starting diene. The raction was concentrated in vacuo to provide 5.7 g (67%) methyl 2-methyl-4-trimethylsilyloxybenzoate.

reactant | 2-trimethylsilyloxy-1,3-cyclohexadiene | 6.0 g | C[Si](OC1=CCCC=C1)(C)C | C9H16OSi
reactant | methyl tetrolate | 3.5 g | C(C#CC)(=O)OC | C5H6O2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 2-methyl-4-trimethylsilyloxybenzoate | 5.7 g, 67% | CC1=C(C(=O)OC)C=CC(=C1)O[Si](C)(C)C | C12H18O3Si
